* C:\Users\Admin\OneDrive\Documents\LTspice\chua_memristor.asc
* Generated by LTspice 26.0.2 for Windows.
V1 N012 0 SINE(0 10 63) AC 1
R1_top N004 N029 {Rtot * (1 - wiper)}
R1_bottom N029 0 {Rtot * wiper}
Q1 N012 N025 N029 0 NPN
R3 N029 N030 150
X§U1 N012 N017 N019 N024 N017 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R4 N017 N029 91k
R5 N018 N017 15k
X§U2 0 N018 N019 N024 N014 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R6 N005 N018 100k
C1 N005 0 1µ
R7 N006 N005 100k
Q2 N012 N007 N004 0 2N4236
R9 N002 N004 150
R8 N004 N017 91k
J1 N021 N014 N026 2N5464
Q3 N021 N026 N030 0 2N4239
Q4 N022 N027 N025 0 2N4239
R1 N025 N030 910
J3 N009 N014 N016 2N3819
D1 N016 P001 1N4148
D2 P001 N015 1N4148
D3 N015 P002 1N4148
D4 P002 N021 1N4148
J4 N010 N015 N013 2N3819
J2 N022 N015 N027 2N5464
R_i_forgor N002 N007 910
C2 N006 N013 0.68µ
R10 N013 N018 20
D5 N022 N018 1N4728
C3 N006 N022 0.68µ
C4 N006 N018 0.1µ
R11 N001 N015 200
Q7 N020 N028 N030 0 2N4239
J5 N020 N001 N028 2N5464
Q5 N016 N009 N002 0 2N4236
Q6 N013 N010 N007 0 2N4236
D6 N020 N006 1N4728
J6 N008 N001 N011 2N3819
Q8 N011 N008 N002 0 2N4236
R12 N011 N006 20
V3 N019 P003 15
R13 N001 0 12.5k
D7 N023 N001 1N4728
D8 N023 0 1N4728
V4 P003 N024 -15
V2 N002 N003 15
V5 N003 N030 -15
.model D D
.lib C:\Users\Admin\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Admin\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NJF NJF
.model PJF PJF
.lib C:\Users\Admin\AppData\Local\LTspice\lib\cmp\standard.jft
.param Rtot = 10k
.param wiper = 0.5
.tran 0 50m 0 10u
.include chua_1971.lib
.OPTIONS ALLOW_AMBIGUOUS_MODELS
.step param wiper list 0.1 0.2 0.3 0.4 0.5 0.6 0.7 0.8 0.9
* M-R Mutator
* Nonlinear Resistor
* Library below included based on ModelFile attribute of instance X§U1, X§U2 (C:\Users\Admin\AppData\Local\LTspice\lib\sym\OpAmps\UniversalOpAmp2.asy)
.lib UniversalOpAmp2.lib
.backanno
.end
